US06573293B2
2,4-Dimethyl-5-(2-oxo-6-pyridin-3-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (2-pyrrolidin-1-ylethyl)amide
6-Pyridin-3-yl-1,3-dihydroindol-2-one (60 mg, 0.28 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-ylethyl)amide (75 mg) to give 90 mg (71%) of the title compound as a light orange solid.

reactant | 6-Pyridin-3-yl-1,3-dihydroindol-2-one | 0.28 mmol, 60 mg | N1=CC(=CC=C1)C1=CC=C2CC(NC2=C1)=O | C13H10N2O
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-ylethyl)amide | 75 mg | N1(CCCC1)CCNC(=O)C1=C(NC(=C1C)C=O)C | C14H21N3O2
product | 2,4-Dimethyl-5-(2-oxo-6-pyridin-3-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (2-pyrrolidin-1-ylethyl)amide | 90 mg, 71% | N1(CCCC1)CCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC(=CC=C12)C=1C=NC=CC1)=O)C | C27H29N5O2
